US07888537B2
A dehydrator 46 receives a portion of the effluent from the decomposer through line 48 where DCP (dicumylperoxide) is converted to CHP and DMPC (dimethylphenylcarbinol) and DMPC is subsequently dehydrated to form AMS (alpha-methylstyrene) in high yield (see FIGS. 4 and 5). This later step allows AMS to be hydrogenated back to cumene and recycled in the process to reduce the fresh cumene feed consumption. Line 23 takes the effluent to the neutralization station 20.

reactant | DCP | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
reactant | DMPC | CC(O)(C1=CC=CC=C1)C | C9H12O
product | AMS | CC(=C)C1=CC=CC=C1 | C9H10
